US08252792B2
6-(cis-3,5-Dimethyl-piperazin-1-ylmethyl)-2-(6-fluoro-1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
To a solution of toluene-4-sulfonic acid 2-[6-fluoro-1-(toluene-4-sulfonyl)-1H-indol-4-yl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl ester (100 mg, 0.144 mmol) in DMF (1 mL) were added potassium carbonate (100 mg, 0.724 mmol) and (cis)-2,6-dimethyl-piperazine (33 mg, 0.289 mmol). The reaction mixture was stirred at RT for 2 h before water and DCM were added. The phases were separated using a hydrophobic frit and the organic phase was concentrated in vacuo. The resultant residue was dissolved in dioxane (1 mL) and IMS (1 mL), and an aqueous solution of NaOH (12 M, 1 mL, 12 mmol) was added. The mixture was stirred at RT for 3 h before a sat. aqueous solution of ammonium chloride and DCM were added.

reactant | toluene-4-sulfonic acid 2-[6-fluoro-1-(toluene-4-sulfonyl)-1H-indol-4-yl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl ester | 0.144 mmol, 100 mg | FC1=CC(=C2C=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1N=C(C2=C(N1)C=C(S2)COS(=O)(=O)C2=CC=C(C=C2)C)N2CCOCC2 | C33H29FN4O6S3
reactant | potassium carbonate | 0.724 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (cis)-2,6-dimethyl-piperazine | 0.289 mmol, 33 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | NaOH | 12 mmol, 12 M, 1 mL | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 6-(cis-3,5-Dimethyl-piperazin-1-ylmethyl)-2-(6-fluoro-1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | C[C@@H]1CN(C[C@@H](N1)C)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=C2C=CNC2=CC(=C1)F | C25H29FN6OS
